US07476749B1
In a dry 3-necked round bottomed flask, containing a magnetic stirrer, equipped with a dropping funnel, a reflux condenser protected from moisture by a calcium chloride filled drying tube and a rubber septum. The dropping funnel is filled with 10.66 mL (150 mmol) of acetyl chloride and 25 mL of dry DCM. The flask is charged with 35.14 g (300 mmol) of Creatinol and 150 mL of dry DCM, and cooled with an ice-water bath to about 0° C., under a nitrogen atmosphere. The acetyl chloride solution is then added slowly with stirring, over a period of 15 minutes, to the Creatinol solution. The solution is stirred for another 10 minutes, after which 13.36 mL (50 mmol) of Octanoic acid is added in one portion and the reaction is slowly heated to about 60° C. for about 4 hours. Then the solution is allowed to cool to room temperature, after which the solvent is removed under reduced pressure to yield the crude ester. The crude ester is then purified by flash chromatography (ethyl acetate/hexanes; 1/3) to yield pure 2-(1-methylguanidino)ethyl octanoate.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | acetyl chloride | 150 mmol, 10.66 mL | C(C)(=O)Cl | C2H3ClO
reactant | Creatinol | 300 mmol, 35.14 g | CN(CCO)C(=N)N | C4H11N3O
reactant | Octanoic acid | 50 mmol, 13.36 mL | C(CCCCCCC)(=O)O | C8H16O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-methylguanidino)ethyl octanoate | C(CCCCCCC)(=O)OCCN(C(=N)N)C | C12H25N3O2
